US06265575B1
Part A. 2-(4-tert-Butoxyphenyl)-6-methoxy-benzo[b]thiophene.
A solution of 6-methoxybenzo[b]thiophene-2-boronic acid (8.87 g, 42.6 mmol) and 4-tert-butoxybromobenzene (U.S. Pat. No. 540,851; 10.25 g, 44.7 mmol) in 400 mL of THF was treated with Pd(PPh3)4 (1.9 g, 1.64 mmol) and 45 mL of 2 N aqueous Na2CO3. The reaction vessel was covered with aluminum foil to keep out light, and the mixture was heated at reflux overnight. After cooling to ambient temperature, the layers were separated, and the aqueous layer was extracted with EtOAc (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. The crude residue was purified by PrepLC (SiO2; 5% THF in hexanes) to give 8.8 g (28.2 mmol; 66%) of the title product as a white powder.

reactant | 6-methoxybenzo[b]thiophene-2-boronic acid | 42.6 mmol, 8.87 g | COC=1C=CC2=C(SC(=C2)B(O)O)C1 | C9H9BO3S
reactant | 4-tert-butoxybromobenzene | C(C)(C)(C)OC1=CC=C(C=C1)Br | C10H13BrO
reactant | Na2CO3 | 2 N, 45 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | aluminum | [Al] | Al
solvent | THF | 400 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 1.64 mmol, 1.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-tert-Butoxyphenyl)-6-methoxy-benzo[b]thiophene | C(C)(C)(C)OC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C19H20O2S
